US06897306B2
Preparation 117: tert-butyl (3R)-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate
A solution of 2-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-3-butenyl]-1,3-oxazole-4-carboxylic acid (Preparation 116) (10.77 g, 38.3 mmol) in dichloromethane (250 ml), at 0° C., was treated with 1-hydroxybenzotriazole hydrate (5.75 g, 42.6 mmol), dimethylamine hydrochloride (3.45 g, 42.3 mmol) and N,N-diisopropylethylamine (13 ml, 75.13 mmol) and lastly 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (8.10 g, 42.3 mmol), allowed to warm to room temperature and stirred for 20 hours under a nitrogen atmosphere. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, aqueous citric acid (10%), water and brine, dried over anhydrous sodium sulphate and filtered. The solvent was removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a solvent gradient of 7:3 (pentane:ethyl acetate) gradually changing to 1:1 (pentane:ethyl acetate) to afford the title compound as a colourless oil (9.9 g).

reactant | 2-[(1R)-1-(2-tert-butoxy-2-oxoethyl)-3-butenyl]-1,3-oxazole-4-carboxylic acid | 38.3 mmol, 10.77 g | C(C)(C)(C)OC(C[C@@H](CC=C)C=1OC=C(N1)C(=O)O)=O | C14H19NO5
reactant | 1-hydroxybenzotriazole hydrate | 42.6 mmol, 5.75 g | O.ON1N=NC2=C1C=CC=C2
reactant | dimethylamine hydrochloride | 42.3 mmol, 3.45 g | Cl.CNC
reactant | N,N-diisopropylethylamine | 75.13 mmol, 13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 42.3 mmol, 8.10 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | tert-butyl (3R)-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}-5-hexenoate | 9.9 g | CN(C(=O)C=1N=C(OC1)[C@@H](CC(=O)OC(C)(C)C)CC=C)C | C16H24N2O4
